US09376392B2
To the solution of 6-methoxy-7-methylquinoline (4.28 g, 24.6 mmol) in 50 mL of concentrated H2SO4 was added N-bromosuccinimide (4.41 g, 14.6 mmol) at 15° C., and the reaction was stirred at 15° C. for 3.5 hours. The reaction mixture was poured into ice-water (600 mL). The aqueous mixture was adjusted with a 50% KOH solution to pH ˜10, and then extracted with DCM (3×). The combined extract was dried with sodium sulfate. Concentration under reduced pressure gave 5-bromo-6-methoxy-7-methylquinoline. LCMS-ESI+ (m/z): 252.1, 254.1 (M+H)+.

reactant | 6-methoxy-7-methylquinoline | 24.6 mmol, 4.28 g | COC=1C=C2C=CC=NC2=CC1C | C11H11NO
reactant | N-bromosuccinimide | 14.6 mmol, 4.41 g | BrN1C(CCC1=O)=O | C4H4BrNO2
reactant | KOH | [OH-].[K+]
solvent | H2SO4 | 50 mL | OS(=O)(=O)O | H2O4S
product | 5-bromo-6-methoxy-7-methylquinoline | BrC1=C2C=CC=NC2=CC(=C1OC)C | C11H10BrNO
